US09079909B2
To cooled (cooling bath −15° C.) conc. HCl (9 mL) was added sodium nitrite in one portion (121 mg, 1.75 mmol) and the suspension was left to stir for 10 min after which 1-(5-amino-3-phenyl-4-(phenylethynyl)-1H-pyrazol-1-yl)-2-methylpropan-2-ol (290 mg, 0.88 mmol) was added. After 5 min, the cooling bath was removed and the reaction mixture was stirred at room temperature for 3 h. The reaction was cooled again (0° C.) and DCM was added followed by water. The aqueous phase was extracted with DCM and the organic phases were combined, dried over MgSO4, filtered and evaporated. Crude material was purified by column chromatography (silica gel, gradient 0 to 50% ethyl acetate/isohexane) yielding 1-(4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazin-1-yl)-2-methylpropan-2-ol as an orange oil (56 mg). The material obtained was further purified by preparative HPLC, yielding 34 mg of Compound 85 as a solid.

reactant | HCl | 9 mL | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | 1-(5-amino-3-phenyl-4-(phenylethynyl)-1H-pyrazol-1-yl)-2-methylpropan-2-ol | 0.88 mmol, 290 mg | NC1=C(C(=NN1CC(C)(O)C)C1=CC=CC=C1)C#CC1=CC=CC=C1 | C21H21N3O
product | 1-(4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazin-1-yl)-2-methylpropan-2-ol | 56 mg | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2=CC=CC=C2)CC(C)(O)C | C21H19ClN4O
